US07399775B2
4-[1-(4-Chlorophenylsulfonyl)pentyl]pyridine
At −78° C., butyl lithium (a 1.57M hexane solution; 0.29 ml, 0.448 mmol) was added dropwise to a tetrahydrofuran (5 ml) solution of 4-(4-chlorophenylsulfonylmethyl)pyridine (100 mg, 0.374 mmol). At −78° C., the resulting mixture was stirred for 10 minutes. Iodobutane (51 μl, 0.448 mmol) was then added thereto. The temperature of the reaction mixture was gradually elevated to room temperature, at which stirring was performed for 16 hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with brine and then dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was subjected to flash chromatography on a silica gel column. The fraction obtained from the hexane:ethyl acetate (=2:1) eluate was concentrated under reduced pressure to give the title compound (76 mg, 63%) as a white solid. The resulting solid was washed with hexane-ether and then collected by filtration, whereby the title compound was obtained as a white powder.

reactant | butyl lithium | C(CCC)[Li]
reactant | hexane | 1.57M | CCCCCC | C6H14
reactant | 4-(4-chlorophenylsulfonylmethyl)pyridine | 0.374 mmol, 100 mg | ClC1=CC=C(C=C1)S(=O)(=O)CC1=CC=NC=C1 | C12H10ClNO2S
reactant | Iodobutane | 0.448 mmol, 51 μl | ICCCC | C4H9I
solvent | Water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-[1-(4-Chlorophenylsulfonyl)pentyl]pyridine | 76 mg, 63% | ClC1=CC=C(C=C1)S(=O)(=O)C(CCCC)C1=CC=NC=C1 | C16H18ClNO2S
